US08541445B2
Step 2: 2-methyl-2-(thiophen-3-yl)butanenitrile
A cooled solution of 2-(thiophen-3-yl)butanenitrile (708 mg, 4.682 mmol) in THF (15 mL) under nitrogen was treated with LHMDS in THF (4.375 g, 4.916 mL of 1 M, 4.916 mmol) dropwise. After 1 hour the reaction was treated with iodomethane (731.0 mg, 320.6 μL, 5.150 mmol) and then allowed to warm to RT. After 2.5 hours the reaction was quenched with MeOH and then concentrated in vacuo. The mixture was diluted with EtOAc/water and the two layers separated. The combined organics were dried (MgSO4), filtered, concentrated and purified by column chromatography (5:1 Petroleum ether/EtOAc) to give the product as a colourless oil (693 mg, 90% Yield).

reactant | 2-(thiophen-3-yl)butanenitrile | 4.682 mmol, 708 mg | S1C=C(C=C1)C(C#N)CC | C8H9NS
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | iodomethane | 5.150 mmol, 320.6 μL, 731.0 mg | IC | CH3I
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 4.916 mmol, 1 M, 4.916 mL, 4.375 g | C1CCOC1 | C4H8O
product | 2-methyl-2-(thiophen-3-yl)butanenitrile | 693 mg, 90% Yield | CC(C#N)(CC)C1=CSC=C1 | C9H11NS
